US08455483B2
a) 3-(2-Fluorophenyl)propan-1-ol
Borane dimethyl sulfide complex (2M in THF, 27.6 mL) was added dropwise to a solution of 3-(2-fluorophenyl)propanoic acid (3.09 g) in tetrahydrofuran (25 mL) and the resulting mixture was allowed to warm to RT and stirred overnight. The reaction was cautiously quenched with methanol and when bubbling had ceased, evaporated. The residue was purified by flash silica chromatography eluting with 4:1 to 1:1 isohexane:ethyl acetate gradient to give the subtitled compound as a clear oil. Yield 2.72 g.

reactant | Borane dimethyl sulfide | 2M, 27.6 mL | CSC.B
reactant | 3-(2-fluorophenyl)propanoic acid | 3.09 g | FC1=C(C=CC=C1)CCC(=O)O | C9H9FO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-(2-Fluorophenyl)propan-1-ol | FC1=C(C=CC=C1)CCCO | C9H11FO
